US07491732B2
The reduction of 3-aminosulfonyl-4-methoxy-5-methylnitrobenzene (0.740 g, 3 mmol) using iron powder (0.81 g, 15 mmol), NH4Cl (0.81 g, 15 mmol) in ethanol (100 mL): water (25 mL) at 60° C. for 1 hour followed by filtration through a pad of Celite gave aqueous alcoholic solution. Concentration of it followed by dilution with water afforded a solid mass, which was isolated by filtration to give 3-aminosulfonyl-4-methoxy-5-methylaniline. 1H NMR (DMSO-d6): δ 6.90 (bs, 1H), 6.55 (bs, 1H), 5.1 (bs, 2H), 3.65 (s, 3H), 2.15 (s, 3H), LCMS: purity: 94%, MS (m/e): 217 (MH+).

reactant | 3-aminosulfonyl-4-methoxy-5-methylnitrobenzene | 3 mmol, 0.740 g | NS(=O)(=O)C=1C=C(C=C(C1OC)C)[N+](=O)[O-] | C8H10N2O5S
reactant | NH4Cl | 15 mmol, 0.81 g | [NH4+].[Cl-]
reactant | water | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | iron | 15 mmol, 0.81 g | [Fe] | Fe
product | 3-aminosulfonyl-4-methoxy-5-methylaniline | NS(=O)(=O)C=1C=C(N)C=C(C1OC)C | C8H12N2O3S
